US08440651B2
To a microwave vial was added tert-butyl 3-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methylene)azetidine-1-carboxylate, 2-isopropyl-1H-benzo[d]imidazole (1.05 eq), sodium tert-butoxide (2 eq), Palladium Acetate (0.1 eq) and Bis(tri-t-butylphosphine)palladium (0.1 eq). The tube was flushed with nitrogen for 10 minutes before adding Toluene (8 mL). The reaction was microwaved at 145° C. for 20 minutes. The crude was purified by flash column chromatography to afford 0.22 g of tert-butyl 3-((2-(2-isopropyl-1H-benzo[d]imidazol-1-yl)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methylene)azetidine-1-carboxylate.

reactant | tert-butyl 3-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methylene)azetidine-1-carboxylate | ClC=1N=C(C2=C(N1)C=CC(=N2)C=C2CN(C2)C(=O)OC(C)(C)C)N2CCOCC2 | C20H24ClN5O3
reactant | 2-isopropyl-1H-benzo[d]imidazole | 1.05 eq | C(C)(C)C1=NC2=C(N1)C=CC=C2 | C10H12N2
reactant | sodium tert-butoxide | 2 eq | CC(C)([O-])C.[Na+]
catalyst | Palladium Acetate | 0.1 eq | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | Bis(tri-t-butylphosphine)palladium | 0.1 eq | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | tert-butyl 3-((2-(2-isopropyl-1H-benzo[d]imidazol-1-yl)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methylene)azetidine-1-carboxylate | 0.22 g | C(C)(C)C1=NC2=C(N1C=1N=C(C3=C(N1)C=CC(=N3)C=C3CN(C3)C(=O)OC(C)(C)C)N3CCOCC3)C=CC=C2 | C30H35N7O3
